Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
seasonal allergies / Percocet
 
Attending: ___
 
Chief Complaint:
umbilical hernia
 
Major Surgical or Invasive Procedure:
umbilical hernia with repair mesh

 
History of Present Illness:
___ h/o of umbilical hernia who had initially presented to the 
ED on ___ with abdominal pain, and a history of protrusion at 
umbilicus which was firm and tender, which was reducible on 
exam. He reported previous episodes of similar herniation and 
abdominal pain in the past while at home. Hernia was reduced in 
ED and patient was discharged home with an elective hernia 
repair scheduled for ___ at ___. 
He underwent an umbilical hernia repair, open,
with mesh with no intraoperative complications. After surgery, 
patient presented with significant nausea and immediate urinary 
retention that required straight cath removing 950cc of urine. 
He is admitted for observation.
 
Past Medical History:
Umbilical hernia
kidney stones
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: CTA B/L w no W/R/R, normal excursion, no respiratory
distress
ABD: soft, appropriately tender.
EXT: WWP
NEURO: Grossly intact
 
Brief Hospital Course:
Patient tolerated procedure very well, was extubated in the OR 
and taken to PACU for further recovery. Please refer to 
Operative note for details of surgical procedure. 

PACU stay complicated by urinary retention and nausea.  Straight 
cath was placed in PACU with evacuation of 950cc of urine. 
Patient was subsequently admitted for further management. 
Another straight cath was placed at 2am. Patient eventually 
voided spontaneously in the morning. Nausea was controlled with 
medication. He subsequently tolerated regular diet.

Patient was discharged home on POD#1, voiding spontaneously, 
tolerating regular diet, ambulating without assistance, and 
without nausea.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild Duration: 14 
Days 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth ___ hours Disp #*12 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Umbilical hernia
post-surgical urinary retention
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted overnight for observation following your 
surgical umbilical hernia repair with mesh.  You had urinary 
retention post-surgically which required you straight 
catherization twice. You subsequently voided spontaneously. 

Your pain is now well controlled on oral pain medication, you 
are able to eat a regular diet without nausea or vomiting, and 
are able to walk around by yourself.  You have an abdominal 
binder in place wrapping around your abdomen. You should 
continue using as much as is feasible until you see your surgeon 
for follow-up

It is expected that you will have mild to moderate abdominal 
discomfort after surgery and this pain will gradually improve 
over the first week or so you are home. You will especially have 
pain when changing positions and with movement. You should 
continue to take 2 Extra Strength Tylenol (___) for pain 
every 8 hours around the clock and you may also take 1 Oxycodone 
5mg tab every ___ for the first few days. Please do not 
take more than 3000mg of Tylenol in 24 hours or any other 
medications that contain Tylenol such as cold medication. Do not 
drink alcohol while taking Tylenol.  Please take this only if 
needed for pain. Do not take with any other sedating medications 
or alcohol. Do not drive a car if taking narcotic pain 
medications. If you are taking narcotic pain medications there 
is a risk that you will have some constipation. Please take an 
over the counter stool softener such as Colace, and if the 
symptoms do not improve call the office.

Please contact your if you develop any of the following 
symptoms: fever, chills, redness/drainage around the surgical 
site, abdominal distension, nausea/vomiting, food intolerance 
 
Followup Instructions:
___